US05098602
Synthesis of 3-chloro-4-octylcarbonyloxy benzoic acid
To a solution of 2.0 g (1.1×10-2 mol) of 3-chloro-4-hydroxy benzoic acid in 40 ml of dried methylene chloride containing 3.0 g (9.2×10-3 mol) of pyridine was added dropwise 3.0 g (9.2×10-3 mol) of nonanoic acid chloride, which were stirred under reflux for 7 hours. After the completion of the reaction, the solution was washed with an aqueous solution of 1 normal hydrochloric acid and further with water and dried on anhydrous magnesium sulfate. After magnesium sulfate was filtered off, the resulting product was purified through a silica gel column chromatography using methylene chloride and ethanol at 9:1 (v/v) as a developing solution and then recrystallized with 5 ml of ethanol to obtain 750 mg (yield: 25%) of a white solid.

reactant | 3-chloro-4-hydroxy benzoic acid | 1.1×10-2 mol, 2.0 g | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | methylene chloride | 9.2×10-3 mol, 40 ml, 3.0 g | C(Cl)Cl | CH2Cl2
reactant | nonanoic acid chloride | 9.2×10-3 mol, 3.0 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-chloro-4-octylcarbonyloxy benzoic acid | 750 mg, yield: 25% | ClC=1C=C(C(=O)O)C=CC1OC(=O)CCCCCCCC | C16H21ClO4
